US06232310B1
b) N-(2-Cyanomethylsulfanyl-5-trifluoromethylphenyl)acetamide
(2-Amino-4-trifluoromethylphenylsulfanyl)acetonitrile (0.66 g) was stirred on an ice bath at 0° C. Acetic acid anhydride (2.5 ml) was added, and the resulting solution was allowed to reach room temperature. After 1 h the mixture was concentrated in vacuo and the solid residue was triturated with petroleum ether (2×2 ml), filtered off and and dried to give the title compound as a white solid. Yield 0.75 g (96%), mp 103-103.3° C.; 1H-NMR(CDCl3) δ (ppm): 8.79 (br, 1H), 8.36 (br, 1H), 7.78 (d, 1H), 7.38 (dd, 1H, J: 8 Hz/2 Hz), 3.50 (s, 2H) 2.29 (s, 3H); 13C-NMR (DMSO-d6) δ (ppm): 169.2 (C═O), 137.1, 134.3, 129.6, 127.7 (q, J=32 Hz), 122.7 (m, 2C), 123.9 (CF3, J=272), 117.6 (CN), 23.2 (H3), 17.6 (CH2); IR (KBr) ν (cm−1): 3249, 2244 (C≡N), 1660, 1530, 1483, 1335, 1170, 1116, 1095.

reactant | (2-Amino-4-trifluoromethylphenylsulfanyl)acetonitrile | 0.66 g | NC1=C(C=CC(=C1)C(F)(F)F)SCC#N | C9H7F3N2S
reactant | Acetic acid anhydride | 2.5 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N-(2-Cyanomethylsulfanyl-5-trifluoromethylphenyl)acetamide | C(#N)CSC1=C(C=C(C=C1)C(F)(F)F)NC(C)=O | C11H9F3N2OS
